US07122580B2
N-[2-Hydroxy-4-(4-trifluoromethyl-phenoxy)-phenyl]-2-(3′-methoxy-biphenyl-4-yl)-acetamide
To 120 mg (0.1 mmol) of above resin-bound 2-(4-bromo-phenyl)-N-[2-Hydroxy-4-(4-trifluoromethyl-phenoxy)-phenyl]-acetamide in 2.0 mL of DME were added 46.0 mg (0.3 mmol) of 3-methoxyphenylboronic acid, 30 mg (0.03 mmol) of Pd(PPh3)4, and 0.3 mL (0.6 mmol) of 2N Na2CO3 solution. The mixture was heated to 80° C. for 12 h. The resin was washed with H2O, DMF, MeOH, DCM three times of each and cleaved with TMSBr/TFA/DCM (1:1:5) at rt for 4 h. The residue obtained after removing the solvent was purified by chromatography (100% methylene chloride) to give 25 mg (50%) of the title compound. LC/MS (m/z) 494 (M+1)+.

reactant | 2-(4-bromo-phenyl)-N-[2-Hydroxy-4-(4-trifluoromethyl-phenoxy)-phenyl]-acetamide | BrC1=CC=C(C=C1)CC(=O)NC1=C(C=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)O | C21H15BrF3NO3
reactant | 3-methoxyphenylboronic acid | 0.3 mmol, 46.0 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | Na2CO3 | 0.6 mmol, 2N, 0.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2.0 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[2-Hydroxy-4-(4-trifluoromethyl-phenoxy)-phenyl]-2-(3′-methoxy-biphenyl-4-yl)-acetamide | 25 mg, 50% | OC1=C(C=CC(=C1)OC1=CC=C(C=C1)C(F)(F)F)NC(CC1=CC=C(C=C1)C1=CC(=CC=C1)OC)=O | C28H22F3NO4
